US07638515B2
(−)-4-({7-Hydroxy-9,9-dimethyl-7-(trifluoromethyl)-6,7,8,9-tetrahydronaphtho[1,2-d]-1,3-dioxol-6-yl}amino)-2,3-dihydroisoindol-1-one
800 mg (2.63 mmol) of 4-(1,3-benzodioxol-4-yl)-2-hydroxy-4-methyl-2-(trifluoromethyl)pentanal is stirred in 5.2 ml of glacial acetic acid with 389 mg (2.63 mmol) of 4-amino-2,3-dihydroisoindol-1-one overnight at room temperature. The reaction mixture is spun in until a dry state is reached, and the residue is chromatographed on a Flashmaster. 725 mg (62.8%) of the desired compound is isolated as a racemate. Racemate cleavage (Chiralpak AD 20μ; mobile solvent: hexane/ethanol/diethylamine) yields 279.2 mg of the (+)-enantiomer {[α]D=+20.7 (c=1.03, methanol)} and 297.5 mg of the (−)-enantiomer {[α]D=−23.4 (c=1.02, methanol)}

reactant | 4-(1,3-benzodioxol-4-yl)-2-hydroxy-4-methyl-2-(trifluoromethyl)pentanal | 2.63 mmol, 800 mg | O1COC2=C1C=CC=C2C(CC(C=O)(C(F)(F)F)O)(C)C | C14H15F3O4
reactant | 4-amino-2,3-dihydroisoindol-1-one | 2.63 mmol, 389 mg | NC1=C2CNC(C2=CC=C1)=O | C8H8N2O
solvent | acetic acid | 5.2 ml | C(C)(=O)O | C2H4O2
product | (−)-4-({7-Hydroxy-9,9-dimethyl-7-(trifluoromethyl)-6,7,8,9-tetrahydronaphtho[1,2-d]-1,3-dioxol-6-yl}amino)-2,3-dihydroisoindol-1-one | 725 mg, 62.8% | OC1(C(C=2C=CC3=C(OCO3)C2C(C1)(C)C)NC1=C2CNC(C2=CC=C1)=O)C(F)(F)F | C22H21F3N2O4
